US08198448B2
a. 4-iodo-1-(2-(tetrahydro-2H-pyran-2-yloxy)ethyl)-1H-pyrazole
A mixture of cesium carbonate (20.7 g, 63.4 mmol) and 4-iodopyrazole (10.00 g, 51.6 mmol) in DMF (100 mL) was allowed to stir for 10 min. To the mixture was added 2-(2-bromoethoxy)tetrahydro-2 h-pyran (9.98 ml, 63.4 mmol) and heated at 80° C. overnight. The mixture was diluted with water and extracted with EtOAc (3×50 mL), and subsequently washed with water (2×50 mL) and brine, dried over sodium sulfate, and filtered. The crude mixture was evaporated onto silica gel and purified via MPLC (0% to 50%; EtOAc in hexanes). Isolated 4-iodo-1-(2-(tetrahydro-2H-pyran-2-yloxy)ethyl)-1H-pyrazole (15.3 g, 92%) as a clear oil. MS m/z=323.0 [M+1]+. Calc'd for C10H15IN2: 322.1.

reactant | cesium carbonate | 63.4 mmol, 20.7 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4-iodopyrazole | 51.6 mmol, 10.00 g | IC=1C=NNC1 | C3H3IN2
reactant | 2-(2-bromoethoxy)tetrahydro-2 h-pyran | 63.4 mmol, 9.98 ml | BrCCOC1OCCCC1 | C7H13BrO2
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 4-iodo-1-(2-(tetrahydro-2H-pyran-2-yloxy)ethyl)-1H-pyrazole | IC=1C=NN(C1)CCOC1OCCCC1 | C10H15IN2O2
